US09062092B2
Compound 100f. 5,5-Dimethyl-2-vinyl-[1,4]dioxane-2-carboxylic acid
To a stirred solution of 5,5-dimethyl-2-vinyl-[1,4]dioxane-2-carboxylic acid benzyl ester (189 mg, 0.684 mmol) in tetrahydrofuran (7 mL) at 0° C. was added a solution of lithium hydroxide hydrate (34 mg, 0.821 mmol) in water (1.6 mL). The reaction mixture was stirred at 0° C. for 30 min and allowed to warm to ambient temperature and stirred for 19 h. The mixture was diluted with water and washed with ethyl acetate (2×). The aqueous layer was acidified to pH 5 with hydrochloric acid (2 M) and extracted with ethyl acetate (2×). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated to give the title compound (69 mg, 54%) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ 1.19 (s, 3H), 1.32 (s, 3H), 3.58 (d, J=11.8 Hz, 1H), 3.72 (d, J=11.8 Hz, 1H), 3.75 (d, J=12.3 Hz, 1H), 4.21 (d, J=12.3 Hz, 1H), 5.39 (dd, J=10.7, 0.9 Hz, 1H), 5.60 (dd, J=17.4, 0.9 Hz, 1H), 5.84 (dd, J=17.4, 10.7 Hz, 1H). LCMS (m/z) 185.2 [M−H], Tr=1.32 min.

reactant | 5,5-dimethyl-2-vinyl-[1,4]dioxane-2-carboxylic acid benzyl ester | 0.684 mmol, 189 mg | C(C1=CC=CC=C1)OC(=O)C1(OCC(OC1)(C)C)C=C | C16H20O4
reactant | lithium hydroxide hydrate | 0.821 mmol, 34 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | water | 1.6 mL | O | H2O
product | 5,5-Dimethyl-2-vinyl-[1,4]dioxane-2-carboxylic acid | 69 mg, 54% | CC1(OCC(OC1)(C(=O)O)C=C)C | C9H14O4
